US09034866B2
Synthesis of Methyl 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-3-(2-(cyclopropanecarbonyl)hydrazinecarbonyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was dissolved in toluene (0.56 mL) and treated with Lawesson's reagent (1.3 equiv., 29.8 mg, 0.07359 mmol). The reaction was heated to reflux until judged complete by LC/MS analysis. The solution was cooled to room temperature. Water was added and the solution was extracted 2× with methylene chloride. The organic layers were combined, dried with sodium sulfate and concentrated in vacuo. The crude material was carried forward without further purification.

reactant | Methyl 10-bromo-3-(2-(cyclopropanecarbonyl)hydrazinecarbonyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(=O)NNC(=O)C3CC3)C1 | C20H19BrN4O4
reactant | Lawesson's reagent | 0.07359 mmol, 29.8 mg, 1.3 equiv. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Water | O | H2O
solvent | toluene | 0.56 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C=3SC(=NN3)C3CC3)C1 | C20H17BrN4O2S
